US07723366B2
N-(2-mercapto-1,3-benzothiazol-6-yl)-N-(phenylmethyl)-2-(phenyloxy)acetamide (Table 4, entry 1)
Into a 13×100 mm screw cap Pyrex® vial were added 6-[(phenylmethyl)amino]-1,3-benzothiazole-2-thiol (30.6 mg, 0.11 mmol), poly(vinylpyridine) (25 mg, 0.22 mmol), phenoxyacetyl chloride (25 μl, 0.18 mmol), and THF (2 ml). The vial was purged with Ar, capped, and shaken for 24 h. Amino silica gel (200 mg, 166 mmol) was added, and the suspension was shaken an additional 6 h. The suspension was filtered, and purified by preparative TLC (developing with 35% EtOAc in hexanes) to afford the title compound as a white powder (33.8 mg, 76%); 1H NMR (DMSO-d6) δ=4.48 (s, 2H), 4.83 (s, 2H), 6.73 (d, 2H), 6.88 (t, 1H), 7.27-7.15 (m, 9H), 7.57 (s, 1H); ESIMS: m/z 405 (M−H).

reactant | 6-[(phenylmethyl)amino]-1,3-benzothiazole-2-thiol | 0.11 mmol, 30.6 mg | C1(=CC=CC=C1)CNC1=CC2=C(N=C(S2)S)C=C1 | C14H12N2S2
reactant | phenoxyacetyl chloride | 0.18 mmol, 25 μl | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-(2-mercapto-1,3-benzothiazol-6-yl)-N-(phenylmethyl)-2-(phenyloxy)acetamide | 33.8 mg, 76% | SC=1SC2=C(N1)C=CC(=C2)N(C(COC2=CC=CC=C2)=O)CC2=CC=CC=C2 | C22H18N2O2S2
